US06407129B1
Glycerol formal (14 g) was dissolved in anhydrous ether (400 ml) and, after adding pyridine (15 g) at −10° C., a solution of chloromethyl chloroformate (25 g) in anhydrous ether (50 ml) was added dropwise over the period of 10 minutes. After the reaction solution was stirred at room temperature for 20 hours, the deposited pyridine hydrochloride was removed by filtration. The filtrate was washed with a saturated sodium chloride aqueous solution (400 ml×2), and then dried over anhydrous magnesium sulfate. The residue obtained by distilling off the solvent under reduced pressure was purified by subjecting to silica gel chromatography (eluent: ethyl acetate/hexane=1/5→ethyl acetate/hexane=1/3) to obtain chloromethyl (1,3-dioxan-5-yl) carbonate (1.7 g) as a colorless oily product.

reactant | Glycerol formal | 14 g | C1C(OCO1)CO | C4H8O3
reactant | pyridine | 15 g | N1=CC=CC=C1 | C5H5N
reactant | chloromethyl chloroformate | 25 g | ClC(=O)OCCl | C2H2Cl2O2
solvent | ether | 400 ml | CCOCC | C4H10O
solvent | ether | 50 ml | CCOCC | C4H10O
product | chloromethyl (1,3-dioxan-5-yl) carbonate | 1.7 g | C(OCCl)(OC1COCOC1)=O | C6H9ClO5
